US05571821
N-(4-Bromo-5-methyl-3-isoxazolyl)thiophene-2-sulfonamide
Thiophene-2-sulphonyl chloride (183 mg, 1 mmol) was added to a solution of 3-amino-4-bromo-5-methylisoxazole (177 mg, 1 mmol) in dry pyridine (0.5 ml). The reaction mixture was stirred at room temperature for 3 h. Pyridine was removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The organic layer was washed with 1N HCl (3×10 ml), brine (10 ml) and dried over anhydrous magnesium sulfate. Evaporation of the solvents left an oily residue which was solidified at -20° C. and then purified by recrystallization from ethyl acetate/hexanes, to give the pure product (51% yield) as a tan solid, m.p. 156°-158° C.

reactant | Thiophene-2-sulphonyl chloride | 1 mmol, 183 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | 3-amino-4-bromo-5-methylisoxazole | 1 mmol, 177 mg | NC1=NOC(=C1Br)C | C4H5BrN2O
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-Bromo-5-methyl-3-isoxazolyl)thiophene-2-sulfonamide | 51% yield | BrC=1C(=NOC1C)NS(=O)(=O)C=1SC=CC1 | C8H7BrN2O3S2
